US07276526B2
1-(2,6-dimethl-pyridine-3-yl)-propan-1-one
3-bromo-2,6-dimethyl-pyridine, (3.72 g, 20 mmol) were dissolved in 40 mL diethylether at −78° C. and treated with 10 mL of n-butyllithium (20 mmol) as a 2 M commercial solution in hexane. After stirring for 0.5 h, propionitrile (1.21 g, 22 mmol) was added and the mixture allowed to slowly warm to room temperature while stirring overnight. The mixture was then poured into water (0.5 volume equivalents relative to ether) and the mixture partitioned. The aqueous solution was extracted with ethyl acetate and the combined organic layers washed with water, dried with sodium sulfate, and concentrated in vacuo. Chromatography on silica using an ethyl acetate/hexane gradient gave the final product. Yield: 0.3 g (9%) 1H NMR (300 MHz, CDCl3), •1.18 (t, CH3, 3H), 2.56 (s, CH3, 3H), 2.68 (s, —CH3, 3H), 2.86 (q, CH2, 2H), 7.04 (d, Ar, 1H,), 7.8 (d, Ar, 1H).

reactant | 3-bromo-2,6-dimethyl-pyridine | 20 mmol, 3.72 g | BrC=1C(=NC(=CC1)C)C | C7H8BrN
reactant | n-butyllithium | 20 mmol, 10 mL | C(CCC)[Li]
reactant | propionitrile | 22 mmol, 1.21 g | C(CC)#N | C3H5N
reactant | water | O | H2O
solvent | diethylether | 40 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 1-(2,6-dimethl-pyridine-3-yl)-propan-1-one | CC1=NC(=CC=C1C(CC)=O)C | C10H13NO
